US07767677B2
A mixture of 6-chloronicotinic acid (0.785 g, 5.000 mmol) and o-phenylenediamine (0.540 g, 5.000 mmol) was added to pre-heated (150° C.) polyphosphoric acid (5 g) with stirring. The stirring was continued at 150° C. overnight. Water was added to the reaction mixture, and the resulting solution was neutralized with NaHCO3, and extracted with ethyl acetate. The organic phase was dried and evaporated to afford 2-(6-chloropyridin-3-yl)-1H-benzoimidazole in 40% yield (0.468 g, 2.04 mmol).

reactant | 6-chloronicotinic acid | 5.000 mmol, 0.785 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | o-phenylenediamine | 5.000 mmol, 0.540 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Water | O | H2O
product | 2-(6-chloropyridin-3-yl)-1H-benzoimidazole | 40% yield | ClC1=CC=C(C=N1)C1=NC2=C(N1)C=CC=C2 | C12H8ClN3
